US08623859B2
N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-[(4-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonyl}-1,3-oxazol-2-yl)methyl]benzenesulfonamide
2-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazole-4-carboxylic acid (100 mg, 0.26 mmol) was dissolved in DCM (15 mL) and EDCI (70 mg, 0.36 mmol), HOBt (53 mg, 0.39 mmol) and DIPEA (0.057 mL, 0.33 mmol) were added. The resulting solution was stirred for 15 min prior to the addition of 1-(1-methylpiperidin-4-yl)piperazine (57 mg, 0.31 mmol) dissolved in DCM (2 mL) and stirred at ambient temperature for 12 h. The reaction was diluted with DCM (20 mL) and washed with water (10 mL), saturated aqueous NaHCO3 (10 mL), saturated brine (5 mL), dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified by FCC with 0-2% MeOH in DCM to afford the title compound as pale yellow oil.

reactant | 2-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazole-4-carboxylic acid | 0.26 mmol, 100 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)O | C17H20N2O6S
reactant | EDCI | 0.36 mmol, 70 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.39 mmol, 53 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.33 mmol, 0.057 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 0.31 mmol, 57 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-[(4-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonyl}-1,3-oxazol-2-yl)methyl]benzenesulfonamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)N1CCN(CC1)C1CCN(CC1)C | C27H39N5O5S
